US05096911
1. 2-Hydrazinobenzoic acid
A solution of sodium acetate (21.7 g, 0.265 mol) in water (80 mL) is added to a solution of 2-hydrazinobenzoic acid hydrochloride (Aldrich, 50 g, 0.265 mol) in water (1500 mL), resulting in the formation of a thick precipitate. This mixture is refrigerated for three hours, filtered, washed with water (2×50 mL) and ethanol (1×100 mL) and dried under vacuum to give the free acid in 75% yield.

reactant | sodium acetate | 0.265 mol, 21.7 g | C(C)(=O)[O-].[Na+]
reactant | 2-hydrazinobenzoic acid hydrochloride | 0.265 mol, 50 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
solvent | water | 80 mL | O | H2O
solvent | water | 1500 mL | O | H2O
product | 2-Hydrazinobenzoic acid | 75% yield | N(N)C1=C(C(=O)O)C=CC=C1 | C7H8N2O2
